US04093812
Add a solution of 19.5 g of ethyl carbazate in 250 ml of ethanol dropwise to 35 g of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde and 1 ml of glacial acetic acid in 400 ml of ethanol. Stir the resulting reaction mixture for 80 minutes at from 35° to 40° C, and add 650 ml of water dropwise to the thus-obtained suspension at room temperature. Cool in an ice bath and separate the produced precipitate by vacuum filtration. Wash the residue with ethanol/water (1:1) and with water to obtain a 97% yield of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone [m.p. 217.5° to 219° C (with decomposition)].

reactant | ethyl carbazate | 19.5 g | C(NN)(=O)OCC | C3H8N2O2
reactant | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde | 35 g | CN1N=C(C(=C1)C=O)C=1OC(=CC1)[N+](=O)[O-] | C9H7N3O4
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | water | 650 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone | 97% yield | C(C)OC(=O)NN=CC=1C(=NN(C1)C)C=1OC(=CC1)[N+](=O)[O-] | C12H13N5O5
